US05985875
Synthesis of 1-benzylidene-2-{4-[4-(4-chlorobenzoyl)benzyl]-3,5-dichlorophenyl}hydrazine
In 15 ml of acetic acid was dissolved 2.10 g of 4-[4-(4-chlorobenzoyl)benzyl]-3,5-dichloroaniline, and 1.8 ml of conc. hydrochloric acid was added. A solution of 0.41 g of NaNO2 in 1 ml of water was dropwise added to the mixture with stirring at 5 to 10 uA for a period of 10 minutes. The pale brown mixture was stirred at the same temperature for 1 hour, and then 0.60 g of benzaldehyde was added. A solution of 3.36 g of SnCl2.2H2O in 3.4 ml of conc. hydrochloric acid was added for a period of 15 minutes, and the resulting mixture was reacted at 20 to 25° C. for 3 hours. Precipitated crystals were collected by filtration and recrystallized from ethyl acetate to give the above-identified compound as yellow cryatals (yield: 40%).

reactant | 4-[4-(4-chlorobenzoyl)benzyl]-3,5-dichloroaniline | 2.10 g | ClC1=CC=C(C(=O)C2=CC=C(CC3=C(C=C(N)C=C3Cl)Cl)C=C2)C=C1 | C20H14Cl3NO
reactant | NaNO2 | 0.41 g | N(=O)[O-].[Na+]
reactant | benzaldehyde | 0.60 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | SnCl2.2H2O | 3.36 g | O.O.Cl[Sn]Cl
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
solvent | water | 1 ml | O | H2O
solvent | hydrochloric acid | 3.4 ml | Cl | ClH
solvent | hydrochloric acid | 1.8 ml | Cl | ClH
product | 1-benzylidene-2-{4-[4-(4-chlorobenzoyl)benzyl]-3,5-dichlorophenyl}hydrazine | yield: 40% | C(C1=CC=CC=C1)=NNC1=CC(=C(C(=C1)Cl)CC1=CC=C(C=C1)C(C1=CC=C(C=C1)Cl)=O)Cl | C27H19Cl3N2O
